US06703182B1
In a 3-necked 50 ml flask fitted with a sintered glass gas inlet tube, 2.13 g (0.0135 mol) of 4-p-tolyl-but-3-enenitrile are dissolved in 30 ml of methanol, and cooled to 0° C. Sodium hydroxide (0.54 g; 0.0135 mol) is added. The turbid, slightly brownish mixture is then treated with ca. 0.025 mol of gaseous methyl nitrite bubbled below the surface of the mixture through the gas inlet tube (methyl nitrite is generated by dropwise addition of [0.8 ml of H2SO4 conc+1.6 ml H2O] to a suspension of sodium nitrite (1.72 g; 0.025 mol) in 3 ml of methanol:water 1:1 (v:v); see M. Itoh et al. Org. Synth. Coll vol. VI, 1988, 199). The mixture is then stirred overnight, allowing the temperature to rise to 25° C. The solvent is evaporated in vacuo, the residue is redissolved in water and extracted with toluene. The aqueous phase is then acidified with conc. HCl to pH ca 2, the beige precipitate is filtered, rinsed neutral with water, and dried under vacuum. The crude product is redissolved in ethyl acetate, filtered through a short pad of SiO2, and evaporated. 2-Hydroxyimino-4-p-tolyl-but-3-enenitrile (1.9 g; 76%), mp 135-137° C. is obtained and used without further purification.

reactant | 4-p-tolyl-but-3-enenitrile | 0.0135 mol, 2.13 g | C1(=CC=C(C=C1)C=CCC#N)C | C11H11N
reactant | Sodium hydroxide | 0.0135 mol, 0.54 g | [OH-].[Na+]
reactant | methyl nitrite | ca. 0.025 mol | N(=O)OC | CH3NO2
reactant | H2SO4 | 0.8 ml | OS(=O)(=O)O | H2O4S
reactant | sodium nitrite | 0.025 mol, 1.72 g | N(=O)[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol water | 3 ml | CO.O
solvent | H2O | 1.6 ml | O | H2O
product | 2-Hydroxyimino-4-p-tolyl-but-3-enenitrile | 1.9 g, 76% | ON=C(C#N)C=CC1=CC=C(C=C1)C | C11H10N2O
